US04600715
At room temperature and under normal pressure, 970 mg of 6-benzyloxycarbonyl-4-ethyl-β-carboline-3-carboxylic acid ethyl ester is hydrogenated for one hour in 50 ml of methanol with 3 ml of 1N hydrochloric acid and 1.50 g of 10% palladium/carbon. After the catalyst has been removed by filtration, the mixture is evaporated, thus obtaining 593 mg of 3-ethoxycarbonyl-4-ethyl-β-carboline-6-carboxylic acid as the hydrochloride.

reactant | 6-benzyloxycarbonyl-4-ethyl-β-carboline-3-carboxylic acid ethyl ester | 970 mg | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1CC)C(=O)OCC1=CC=CC=C1 | C24H22N2O4
reactant | hydrochloric acid | 1N, 3 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium/carbon | 1.50 g | [Pd] | Pd
product | 3-ethoxycarbonyl-4-ethyl-β-carboline-6-carboxylic acid | 593 mg | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1CC)C(=O)O | C17H16N2O4
